US07241829B2
(a) Synthesis of 4-(t-butyldimethylsilyloxy)styrene (p-OSi-St)
p-OSi-St chain transfer agent was synthesized in two steps. In a 500 ml flask equipped with a magnetic stirring bar, 70.4 g of imidazole was mixed with 52.4 g (0.42 mol) of 4-hydroxybenzaldehyde and 77.4 g of t-butyldimethylsilyl chloride in THF solution. The mixture was stirred at ambient temperature for 4 hours before being poured into cold water. The organic layer was separated and extracted with ether, then dried with magnesium sulfate. After evaporating the solvent, 94 g of 4-(t-butyldimethylsilyloxy)benzaldehyde (90% yield), a deep yellow color liquid, was obtained. The second reaction step was performed under a nitrogen atmosphere. In a 500 ml flask equipped with a magnetic stirring bar, 123.6 g of methyltriphenylphosphonium bromide suspended in THF was treated with 149.6 ml of n-butyllithium (2.5M in hexane). After 1 hour, 80.0 g of 4-(t-butyldimethylsilyloxy)benzaldehyde was introduced dropwise into the red solution. The mixture was stirred overnight at room temperature and then poured into cold water. The organic layer was separated by ether extraction and dried with magnesium sulfate. Further purification was performed by distillation under vacuum (10 Torr) at elevated temperature (80° C.). 65 g of p-OSi-St was obtained with a yield of more than 90%. Its structure was confirmed by 1H NMR spectrum.

reactant | n-butyllithium | 2.5M, 149.6 ml | C(CCC)[Li]
reactant | 4-(t-butyldimethylsilyloxy)benzaldehyde | 80.0 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=O)C=C1 | C13H20O2Si
reactant | water | O | H2O
catalyst | methyltriphenylphosphonium bromide | 123.6 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | C1CCOC1 | C4H8O
product | 4-(t-butyldimethylsilyloxy)styrene | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C)C=C1 | C14H22OSi
